US07973026B2
Step 7: methyl 6-(2-fluorocyclohexyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate
60% NaH in mineral oil (2 eq.) was added at RT to a 0.25M solution of methyl 6-(2-fluorocyclohexyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate in dry DMF, after few min methyl bromoacetate (3 eq.) was added and the mixture was stirred at 60° C. for 1 h and left overnight at RT. After dilution with EtOAc, the organic layer was washed with 1N HCl, sat. NaHCO3 and brine, dried over Na2SO4 and concentrated. Chromatography (PE/EtOAc) afforded the title compound (53%). 1H-NMR (400 MHz, CDCl3, 300K, δ) 7.60 (s, 1H), 6.92 (s, 1H), 4.74 (s, 2H), 4.50 (dtd, 1H, J 48.9, 10.3, 4.5), 3.88 (s, 3H), 3.77 (s, 3H), 2.85-2.76 (m, 1H), 2.25-2.11 (m, 2H), 1.90-1.74 (m, 2H), 1.68-1.54 (m, 2H), 1.44-1.33 (m, 2H); MS (ES+) m/z 354 (M+H)+.

reactant | NaH | [H-].[Na+]
reactant | methyl 6-(2-fluorocyclohexyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | FC1C(CCCC1)C=1C2=C(NC1)C=C(S2)C(=O)OC | C14H16FNO2S
reactant | methyl bromoacetate | 3 eq. | BrCC(=O)OC | C3H5BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 6-(2-fluorocyclohexyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 53% | FC1C(CCCC1)C=1C2=C(N(C1)CC(=O)OC)C=C(S2)C(=O)OC | C17H20FNO4S
